US07534894B2
A mixture of 3′-bromo-4′-methoxy-1,1′-biphenyl-4-carbaldehyde (19.4 g, 69 mmol), prepared in step 3 of Example 6, benzylamine (38 mL, 345 mmol) and 60 g of anhydrous MgSO4 in 400 mL of methylene chloride was stirred under nitrogen at room temperature for 18 h. The reaction was filtered and the filtrate concentrated under reduced pressure to give an off-white solid. The solid was triturated with hexane and dried under reduced pressure to give N-benzyl-N-[(1Z)-(3′-bromo-4′-methoxy-1,1′-biphenyl-4-yl)methylidene]amine (23.6 g, 88%) as an off-white solid, MS KESI) m/z 380 [M+H]+. Elemental analysis for C21H18BrNO: Calc'd: C, 66.33; H, 4.77; N, 3.68; Found: C, 63.22; H, 4.85; N, 4.17

reactant | 3′-bromo-4′-methoxy-1,1′-biphenyl-4-carbaldehyde | 69 mmol, 19.4 g | BrC=1C=C(C=CC1OC)C1=CC=C(C=C1)C=O | C14H11BrO2
reactant | benzylamine | 345 mmol, 38 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | MgSO4 | 60 g | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | methylene chloride | 400 mL | C(Cl)Cl | CH2Cl2
product | N-benzyl-N-[(1Z)-(3′-bromo-4′-methoxy-1,1′-biphenyl-4-yl)methylidene]amine | 23.6 g, 88% | C(C1=CC=CC=C1)\N=C/C1=CC=C(C=C1)C1=CC(=C(C=C1)OC)Br | C21H18BrNO
